US07691892B2
c) 3-[5-(4-Cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yloxymethyl)-tetrazol-2-yl]-benzonitrile
The title compound is prepared from 4-{4-cyclopropyl-5-[2-(3-iodo-phenyl)-2H-tetrazol-5-ylmethoxy]-4H-[1,2,4]triazol-3-yl}-pyridine (1 mmol), zinc cyanide (1.1 mmol), palladium (0) tetrakis-triphenylphosphine (0.05 mmol) in DMF (5 mL) at 80° C. overnight.

reactant | 4-{4-cyclopropyl-5-[2-(3-iodo-phenyl)-2H-tetrazol-5-ylmethoxy]-4H-[1,2,4]triazol-3-yl}-pyridine | 1 mmol | C1(CC1)N1C(=NN=C1OCC=1N=NN(N1)C1=CC(=CC=C1)I)C1=CC=NC=C1 | C18H15IN8O
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.1 mmol | [C-]#N.[Zn+2].[C-]#N
product | 3-[5-(4-Cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yloxymethyl)-tetrazol-2-yl]-benzonitrile | C1(CC1)N1C(=NN=C1C1=CC=NC=C1)OCC=1N=NN(N1)C=1C=C(C#N)C=CC1 | C19H15N9O
